US07745490B2
Sodium dithionite (1.5 g) was added to a solution of 1-benzyloxy-2-methoxy-5-nitrobenzene (2.5 gm) in a mixture of methanol (20 ml)/aqueous ammonia (4 ml). After stirring for 12 hrs at room temperature, the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate (75 ml) and water (50 ml). The ethyl acetate layer was washed with water (25 ml), brine solution (25 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Purification by flash chromatography over silica gel eluting with ethyl acetate/hexane (1:1) provided 0.771 g of 1-Benzyloxy-2-methoxy-5-aminobenzene (Yield=35%).

reactant | Sodium dithionite | 1.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-benzyloxy-2-methoxy-5-nitrobenzene | 2.5 gm | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])OC | C14H13NO4
reactant | ammonia | 20 ml | N | H3N
solvent | methanol | CO | CH4O
product | 1-Benzyloxy-2-methoxy-5-aminobenzene | 0.771 g, Yield=35% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)N)OC | C14H15NO2
